Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Beta-Blockers (Beta-Adrenergic Blocking Agts)
 
Attending: ___
 
Chief Complaint:
bradycardia and chest pain
 
Major Surgical or Invasive Procedure:
Dual chamber pacemaker placement
 
History of Present Illness:
___ w/ a hx of angina, HTN, and hyperlipidemia who was 
transferred from OSH for further management of  bradycarida. Pt 
awoke around 3am this morning with left sided substernal chest 
pain radiating to left arm. She took 2 ntg with minimal relief 
and nephew called EMS who found her to be bradycardic to HR 30 
on arrival. She also developed left sided facial tingling which 
resolved soon after EMS arrived. Also promotes some lh and 
dizziness around episode. Denies any SOB or n/v. No recent 
constitutional symptoms. After arrival to OSH, all symptoms 
including chest pressure resolved. HR was in ___ in ED and did 
not improve with .5mg atropine prompting transfer to ___. She 
had a negative head CT for left facial droop which was negative 
prior to transfer (facial droop documented during last 
admission). Of note, she was admitted to OSH in ___ with 
bradycardia and chest pain. A stress test was attempted but 
stopped ___ chest pain. Pt deferred cath. She has been taking 
amio for several months for afib. She has not been on any nodal 
agents since ___.

In the ED,intial vitals were 97.4 48 158/56 15 96%. EKG showed 
sinus bradycardia at 50bpm with first degree AV block. Trops 
were negative x2. CXR was without cardiopulmonary process. Labs 
were wnl. She was admitted for further observation.

 
Past Medical History:
Diastolic heart failure
degenerative disc disease
GERD
osteoarthritis
Anemia chronic disease
HTN
Osteoarthritis
s/p appendectomy
s/p hysterectomy
s/p cholecystectomy
Afib

 
Social History:
___
Family History:
No history of CAD or heart problems 

 
Physical Exam:
Admission:
VS: T:97.5 BP 109-158/66 P47  R16 97% RA 
___: Pt appears comfortable, laying in bed, A&Ox3
HEENT: NCAT, EOMI, ___, MMM, no oral lesions  
Neck: No masses appreciated   
CV: RRR with ___ cresendo/decresendo murmur heard best over 
right ___ intercostal space with preserved s2. No rubs or 
gallops.
Lungs: CTABL with no w/r/r
Abdomen: Non tender, nd, no g/r, +BS
Ext: No edema, clubbing, or cyanosis 
Neuro: cn ___ grossly intact aside from L sided facial droop, 
___ strength in upper and lower right extrm, ___ strength left 
side
Skin: No rashes or skin changes appreciated
Pulses: 2+ TP and 2+DP

Discharge:
VS: T:98.1 BP 121-141/55 P37-50  R16 97% RA 
___: Pt appears comfortable, laying in bed, A&Ox3
HEENT: NCAT, EOMI, ___, MMM, no oral lesions  
Neck: No masses appreciated   
CV: RRR with ___ cresendo/decresendo murmur heard best over 
right ___ intercostal space with preserved s2. No rubs or 
gallops.
Lungs: CTABL with no w/r/r
Abdomen: Non tender, nd, no g/r, +BS
Ext: No edema, clubbing, or cyanosis 
Neuro: cn ___ grossly intact aside from L sided facial droop, 
___ strength in upper and lower right extrm, ___ strength left 
side
Skin: No rashes or skin changes appreciated
Pulses: 2+ TP and 2+DP

 
Pertinent Results:
Admission:

___ 07:55AM BLOOD WBC-4.9 RBC-3.38* Hgb-10.1* Hct-31.9* 
MCV-94 MCH-29.8 MCHC-31.7 RDW-14.1 Plt ___
___ 07:55AM BLOOD Glucose-94 UreaN-47* Creat-1.6* Na-138 
K-4.4 Cl-98 HCO3-29 AnGap-15
___ 07:55AM BLOOD Calcium-8.7 Phos-5.4* Mg-3.0*

Discharge:
___ 06:55AM BLOOD WBC-4.0 RBC-3.15* Hgb-9.6* Hct-29.5* 
MCV-94 MCH-30.4 MCHC-32.4 RDW-13.7 Plt ___
___ 06:55AM BLOOD Glucose-82 UreaN-35* Creat-1.3* Na-144 
K-3.8 Cl-104 HCO3-34* AnGap-10
___ 06:55AM BLOOD Calcium-8.8 Phos-4.6* Mg-2.3

Imaging:

CXR (post pacemaker):

IMPRESSION: 
  
1. Left-sided pacemaker with leads in adequate position.  
  
2. Increased small left pleural effusion. 
  
3. Rightward deviation of the trachea may be suggestive of a 
thyroid mass. 

Echo ___:
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and global systolic function (LVEF>55%). Doppler 
parameters are most consistent with Grade II (moderate) left 
ventricular diastolic dysfunction, and E/e' ratio is consistent 
with elevated filling pressure. Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. An eccentric, anteriorly- 
directed jet of Mild to moderate (___) mitral regurgitation is 
seen. Moderate [2+] tricuspid regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal biventricular function. Biatrial enlargement. Mild to 
moderate, eccentric mitral regurgitation and moderate tricuspid 
regurgitation are seen. Moderate pulmonary artery systolic 
hypertension.

 
Brief Hospital Course:
___ female with a hx of HTN, HLD, and bradycardia who was 
transferred from OSH with bradycardia in ___ with chest pain

#Bradycardia: Most likely secondary to sick sinus syndome with 
resulting junctional rhythm. A dual chamber DDD pacemaker was 
place this admission. Procedure was well tolerated and 
interrogation of pacemaker on ___ was normal. Intrinsic rate set 
at 60bpm. She will follow up with Dr. ___ further 
management.

#Chest pain: Most likely related to bradycardia resulting in 
poor coronary perfusion. Trop was negative and  there were no 
concerning st changes on EKG.  Chest pain resolved with 
increased heart rate following pacemaker placement.  While she 
most likely has coronary artery disease, she has elevated 
medical management with aspirin 325 and statin. Metoprolol was 
added this admission following pacemaker placement. An echo was 
notable for a preserved EF of 55% with mild to moderate MR.

#Afib: Patient was not in atrial fibrillation this admission. 
She was continued on previously prescribed amiodarone and 
metoprolol was added following pacemaker placement. She is not 
on anticoagualtion due to hx of upper GI bleed.

#Hypertension: Patients blood pressure was elevated this 
admission in the systolic 160-170 range. Per patient, she only 
takes hydralazine once daily. She was transitioned to TID dosing 
and metoprolol was added as above.

#Facial tingling and droop: Patient developed facial tingling in 
setting of bradycardia which resolved with normal heart rate. A 
head CT was normal prior to transfer. She has a history of 
stroke with resulting right sided weakness at baseline which was 
unchanged. She was continued on aspirin daily.

 
Discharge Medications:
1. Acetaminophen 650 mg PO BID 
2. Amiodarone 200 mg PO DAILY 
3. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
4. Aspirin 325 mg PO DAILY 
5. Docusate Sodium 100 mg PO TID 
6. FoLIC Acid 1 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. HydrALAzine 50 mg PO Q8H 
RX *hydralazine 50 mg 1 tablet(s) by mouth q8hrs Disp #*90 
Tablet Refills:*3
9. Lidocaine 5% Patch 1 PTCH TD DAILY 
10. Pantoprazole 20 mg PO Q24H 
11. Polyethylene Glycol 17 g PO DAILY 
12. Pregabalin 25 mg PO BID 
13. Simvastatin 20 mg PO DAILY 
14. TraZODone 25 mg PO HS 
15. Vitamin B Complex 1 CAP PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Cephalexin 500 mg PO Q8H 
RX *cephalexin 500 mg 1 tablet(s) by mouth q8hrs Disp #*5 
Capsule Refills:*0
18. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*3
19. Senna 1 TAB PO BID:PRN constipation 
20. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Sick sinus syndrome

Secondary Diagnosis:
Atrial fibrillation
Diastolic Heart Failure-Chronic
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You came in with a slow heart beat which was 
causing you to have chest pain. We placed a pacemaker in order 
to ensure that your heart beats at a more regular rate. You were 
also started on a medication call metoprolol for your heart. You 
will follow up with Dr. ___ further management of 
your pacemaker.
 
Followup Instructions:
___